US05675012
In a 200-ml reaction flask equipped with a thermometer, a Dimroth condenser and a stirrer were fed 46 g (0.2 mole) of 2-chloro-5-trichloromehtylpyridine, 16 g (0.3 mole) of ammonium chloride and 0.23 g (0.5% by weight) of cupric oxide. The mixture was reacted at 200° C. for 12 hours. The reaction mixture was cooled. At 130° C., 100 ml of xylene was added into the reaction flask. The mixture was cooled further. At 60° C., the mixture was filtered to remove a copper salt and excessive ammonium chloride. The filtrate (xylene layer) was concentrated. The resulting concentrate was subjected to distillation to obtain 20.3 g of 2-chloro-5-cyanopyridine as a fraction having a boiling point of 146°-150° C./15 mmHg. [Yield: 73.3%, colorless crystals having a melting point of 117°-118° C. (crystallization took place after distillation)]

reactant | 2-chloro-5-trichloromehtylpyridine | 0.2 mole, 46 g | ClC1=NC=C(C=C1)C(Cl)(Cl)Cl | C6H3Cl4N
reactant | ammonium chloride | 0.3 mole, 16 g | [Cl-].[NH4+]
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-chloro-5-cyanopyridine | 20.3 g, Yield: 73.3% | ClC1=NC=C(C=C1)C#N | C6H3ClN2
